** sch_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-24/design/bandgap_startup.sch
**.subckt bandgap_startup vdd vss sns1 fb
*.iopin vdd
*.iopin vss
*.iopin sns1
*.iopin fb
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
XMKFB fb det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1
**.ends
.end
